US04725605
2-(2-Pyridyl)thiazolo[3,2-a]benzimidazole
A solution of 2-mercapto-1-[2-oxo-2-(2-pyridyl)ethyl]benzimidazole (1 g.) in polyphosphoric acid was heated at 140° C. for 1 hour. The solution was neutralised with Na2CO3 solution and extracted into EtOAc (700 ml). The extracts were dried (MgSO4) and evaporated to give a solid which was recrystallised from EtOAc/EtOH to give the title compound (0.35 g.) mp 222°-4° C.

reactant | 2-mercapto-1-[2-oxo-2-(2-pyridyl)ethyl]benzimidazole | 1 g | SC1=NC2=C(N1CC(C1=NC=CC=C1)=O)C=CC=C2 | C14H11N3OS
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | 2-(2-Pyridyl)thiazolo[3,2-a]benzimidazole | 0.35 g | N1=C(C=CC=C1)C1=CN2C(=NC3=C2C=CC=C3)S1 | C14H9N3S
